US09260416B2
Step 2: 6-(2-Oxo-propylsulfanyl)-pyridine-2-carboxylic acid ethyl ester
Prepared according to the procedure described in Example 6, Step 2, using the following starting materials: 6-triisopropylsilanylsulfanyl-pyridine-2-carboxylic acid ethyl ester and chloroacetone.

reactant | 6-triisopropylsilanylsulfanyl-pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC=C1)S[Si](C(C)C)(C(C)C)C(C)C | C17H29NO2SSi
reactant | chloroacetone | ClCC(C)=O | C3H5ClO
product | 6-(2-Oxo-propylsulfanyl)-pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC=C1)SCC(C)=O | C11H13NO3S
